US06982278B2
A solution of 2-(4-{2-[2-(4-hydroxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester (0.15 g, 0.352 mmol), methyl iodide (0.15 g, 1.06 mmol), tetrabutylammonium bromide (0.023 g, 0.0713) mmol) in CH2Cl2 (8 mL) was treated with a 50% weight solution of NaOH (0.1 mL), and stirred at room temperature. The reaction mixture was extracted with water and more CH2Cl2 and the organic layer dried (MgSO4). The solvent was removed in vacuo to give a crude oil which was purified by flash chromatography (2/1 hexanes/EtOAc) to afford 0.038 g (25%) 2-(4-{2-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester. 1H NMR (500 MHz, CDCl3) δ 7.87-7.85 (m, 2), 6.90-6.88 (m, 2H), 6.78-6.71 (m, 4H), 4.21-4.06 (m, 4H), 3.80 (s, 3H), 2.88 (t, 2H, J=6.60 Hz), 2.29 (s, 3H), 1.47 (s, 6H), 1.23 (t, 3H, J=7.33 Hz); MS (ES+) Calc'd for C25H30NO6: Found m/e 440 (M+1, 100%).

reactant | 2-(4-{2-[2-(4-hydroxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester | 0.352 mmol, 0.15 g | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)O)=O | C24H27NO6
reactant | methyl iodide | 1.06 mmol, 0.15 g | CI | CH3I
reactant | NaOH | 0.1 mL | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 0.023 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-{2-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester | 0.038 g, 25% | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)OC)=O | C25H29NO6
